US03987091
M. Preparation of Ethyl 4-Bromobutoxyacetate
Sodium hydride (9.0 g., 0.375 mole) is suspended in 1,2-dimethoxyethane. The mixture is stirred and cooled in an ice bath while ethyl glycollate (39.0 g., 0.375 mole) is added dropwise during one hour. 1,4-Dibromobutane (108 g., 0.5 mole) is added all at once to the resulting thick suspension. The mixture is warmed gently to initiate a strongly exothermic reaction; then the mixture is heated 3 hours on the steam bath. The mixture is poured into cold water. The heavy oil layer is taken up in ether, washed with three portions of water, and dried over sodium sulfate.

reactant | Sodium hydride | 0.375 mole, 9.0 g | [H-].[Na+]
reactant | ethyl glycollate | 0.375 mole, 39.0 g | CCOC(=O)CO | C4H8O3
reactant | 1,4-Dibromobutane | 0.5 mole, 108 g | BrCCCCBr | C4H8Br2
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | ether | CCOCC | C4H10O
product | Ethyl 4-Bromobutoxyacetate | BrCCCCOCC(=O)OCC | C8H15BrO3
